US05003102
The cleavage in stage (c) is advantageously carried out in the presence of molecular oxygen or a gas which contains molecular oxygen and an inert gas, such as nitrogen, carbon dioxide, argon or steam. A molar ratio of formylvaleric esters to molecular oxygen of from 1:0.05 to 1:3, in particular from 1:0.2 to 1:1.5, e.g., from 1:0.25 to 1:1.25, is advantageously used. This increases the catalyst life and in particular the yield of pentenoic esters. The presence of molecular oxygen was not indicated since methyl 5-formylvalerate is oxidized to monomethyl adipate in a yield of 96% by molecular oxygen at as low as 50° C., as disclosed in European Patent 131,860, and it was therefore to be expected that 4- and 3-formylvaleric esters would be oxidized in a similar manner to give 2-methylglutaric acid and 3-ethylsuccinic esters.

reactant | carbon dioxide | C(=O)=O | CO2
reactant | methyl 5-formylvalerate | C(=O)CCCCC(=O)OC | C7H12O3
reactant | monomethyl adipate | C(CCCCC(=O)[O-])(=O)OC
product | 2-methylglutaric acid | yield of 96% | CC(C(=O)O)CCC(=O)O | C6H10O4
